US03975445
5-(3-oxo-2,5,5-trimethyl-cyclopent-1-en-1-yl)-3-methyl-penta-2,4-diene-1-triphenylphosphonium bromide is prepared according to the following method. 10 g. of 1-hydroxymethyl-3-oxo-2,5,5-trimethyl-cyclopent-1-ene are dissolved in 200 ml. of ether. After the addition of 1.2 ml. of pyridine, the solution is treated dropwise at -20°C. with a solution of 2.9 ml. of phosphorus tribromide in 40 ml. of ether, stirred for 1 hour, introduced into water and then extracted with ether. The ether extract is evaporated. The remaining 1-bromomethyl-3-oxo-2,5,5-trimethyl-cyclopent-1-ene is taken up in dimethylformamide. After the addition of 11.5 g. of sodium phenylsulfinate, the mixture is stirred at room temperature for 90 minutes, then introduced into water and extracted with ether. After evaporation of the ether extract, there is obtained methyl-(3-oxo-2,5,5-trimethylcyclopent-1-en-1-yl)-phenylsulfone of melting point 116°-118°C. 23.5 g. of the methyl-(3-oxo-2,5,5-trimethyl-cyclopent-1-en-1-yl)-phenylsulfone are dissolved in 60 ml. of dimethylformamide. After the addition of 23 g. of potassium tert.butylate, the mixture is stirred at 0°C. for 30 minutes and then treated dropwise with 25 g. of 1-acetoxy-4-chloro-3-methyl-but-2-ene dissolved in 50 ml. of dimethylformamide. The mixture is stirred at room temperature for 16 hours, then introduced into water and extracted with ethyl acetate. The organic phase is separated and evaporated. The residue is taken up in methanol. After the addition of 45 g. of potassium carbonate in 150 ml. of water, the mixture is stirred for 2 hours, then introduced into water and extracted with ethyl acetate. After evaporation of the extract, there is obtained 5-(3-oxo-2,5,5-trimethyl-cyclopent-1-en1-yl)-5-phenylsulfonyl3-methyl-pent-2-en-1-ol which, after recrystallization from hexane, has a melting point of 149°-153°C. 17.6 g. of the 5-(3-oxo-2,5,5-trimethyl-cyclopent-1-en-1-yl)-5-phenylsulfonyl-3-methyl-pent-2-en-1-ol are dissolved in 1000 ml of methylene chloride. After the addition of 300 g. of manganese dioxide, the mixture is stirred for 16 hours and then filtered. After evaporation of the filtrate, there is obtained 5-(3-oxo-2,5,5-trimethyl-cyclopent-1-en-1-yl)-5-phenylsulfonyl-3-methylpent-2-en-1-al which, after recrystallization from ether, has a melting point of 132°-134°C. 16.4 g. of the 5-(3-oxo-2,5,5-trimethyl-cyclopent-1-en-1-yl)-5-phenylsulfonyl-3-methyl-pent-2-en-1-al are dissolved in 300 ml. of tetrahydrofuran and 300 ml. of isopropanol. The solution is treated dropwise at 0°C. with 5 ml. of a 50% aqueous potassium hydroxide solution. The mixture is stirred for 1 hour, then introduced into water and extracted with ether. After evaporation of the ether extract, there is obtained 5-(3-oxo-2,5,5-trimethylcyclopent-1-en1-yl)-3-methyl-penta-2,4-dien-1-al which, after recrystallization from methylene chloride/hexane (1:1), has a melting point of 91°-93°C. 6.4 g. of the 5-(3-oxo- 2,5,5-trimethyl-cyclopent-1-en-1-yl)-3-methyl-penta-2,4-dien-1-al are dissolved in 120 ml. of ethanol. After the addition of 285 mg. of sodium borohydride, the mixture is stirred at 0°C. for 90 minutes. The mixture is then introduced into water and extracted with ether. After evaporation of the ether extract, there is obtained 5-(3-oxo-2,5,5-trimethyl-cyclopent-1-en-1-yl)-3-methyl-penta-2,4-dien-1-ol which, after recrystallization from ether, has a melting point of 116°-118°C. 5 g. of the 5-(3-oxo-2,5,5-trimethyl-cyclopent-1-en-1-yl)-3-methyl-penta- 2,4-dien-1-ol are dissolved in 20 ml. of methylene chloride and 3 ml. of dimethylformamide. The solution is treated dropwise at -20°C. with 2 ml. of phosphorus tribromide. The mixture is stirred for 1 hour at 0°C., then introduced into water and extracted with ether. The ether extract is evaporated. The remaining 1-bromo-5-(3-oxo-2,5,5-trimethyl-cyclopent-1 -en-1-yl)-3-methyl-penta-2,4-diene is dissolved in ethyl acetate. The solution is treated dropwise with 7 g. of triphenylphosphine in 40 ml. of ethyl acetate, stirred for 2 hours and then filtered. The filtrate is evaporated. There is obtained 5-(3-oxo-2,5,5-trimethyl-cyclopent-1-en-1-yl)-3-methyl-penta-2,4-diene-1-triphenylphosphonium bromide; I.R. spectrum: 1690cm -1 [ketone]; 742, 723, 690cm-1 [mono-substituted benzene].

reactant | methyl-(3-oxo-2,5,5-trimethyl-cyclopent-1-en-1-yl)-phenylsulfone | CC=1C(=C(C=CC1)S(=O)(=O)C1=C(C(=CC=C1)C)C1=C(C(CC1(C)C)=O)C)C1=C(C(CC1(C)C)=O)C | C30H34O4S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 1-acetoxy-4-chloro-3-methyl-but-2-ene | C(C)(=O)OCC=C(CCl)C | C7H11ClO2
solvent | water | O | H2O
product | 5-(3-oxo-2,5,5-trimethyl-cyclopent-1-en1-yl)-5-phenylsulfonyl3-methyl-pent-2-en-1-ol | O=C1C(=C(C(C1)(C)C)C(CC(=CCO)C)S(=O)(=O)C1=CC=CC=C1)C | C20H26O4S
